datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([N:10]2[CH:61]=[N:62][C:72](C)=[CH:71]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20](C3=CC=CC=C3)[CH:21]=[C:22]=[N-:23])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1 10=20;20,21=21"
"C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.CN(C)C[C@@H]1CCC[NH:10]1>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10=20
"C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[N+:11]([O-:12])[O-:62])[CH:83]=[CH:82]1.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([N+:11](=[O:12])[O-:62])[F:20])[CH:83]=[CH:82]1.ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2CCCC[CH:63]=[CH:62][CH+:11]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]2([C:91]3=[CH:92][CH:93]=[C:94](OC)[CH:103]=[CH:102]3)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=C1 10=20
CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CC[O:92][C:71]([CH:10]([CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC[O:61][C:11]([C:10]([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12"
"C1CC2CC1[CH:10]=[CH:11]2.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2C3CCC(C3)[CH+:11]2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1.[N:10]1=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]1>>O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]2)[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([H:10])CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10,11=10,20"
